### PR TITLE
Add Erdős Problem 230 (unimodular polynomials and Kahane's ultraflat polynomials), link the formal disproof

### LINKED ISSUE #6159: Erdős Problem 230
### What is the Erdős problem?

https://www.erdosproblems.com/230

Let $P(z)=\sum_{1\leq k\leq n}a_kz^k$ for some $a_k\in \mathbb{C}$ with $\lvert a_k\rvert=1$. Does there exist a constant $c>0$ such that, for $n\geq 2$, $\max_{\lvert z\rvert=1}\lvert P(z)\rvert \geq (1+c)\sqrt{n}$?

Status: disproved (Lean). Kahane's ultraflat polynomials give a negative answer; a formal disproof exists in plby/lean-proofs (`Erdos230.not_erdos_230`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-30
* ams-42

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6159.

### What changed
Adds `FormalConjectures/ErdosProblems/230.lean` with `circleMax a = ⨆ z ∈ S¹, ‖∑ aₖ z^k‖` and:
- `erdos_230` (`research solved`, `answer(False)`): the Erdős–Newman question whether `max_{|z|=1} |P(z)| ≥ (1+c)√n` for all unimodular `P` of degree `n ≥ 2`. Disproved by Kahane's ultraflat polynomials [Ka80]; linked to plby/lean-proofs `Erdos230.not_erdos_230` (Codex and GPT-5.6 Sol; 10 Mathlib-only files).
- `erdos_230.variants.ultraflat` (`research solved`): Kahane's theorem, `|P_n(z)| = (1 + o(1))√n` uniformly on the circle.

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos230.not_erdos_230` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms (`circleMax` is plby's `circleMaximum`, an `sSup` over the same set of values):

<details>
<summary>Bridge</summary>

```lean
namespace Bridge230

lemma circleMax_eq {n : ℕ} (a : Fin n → ℂ) :
    Erdos230.circleMax a = Erdos230Plby.circleMaximum a := by
  unfold Erdos230.circleMax Erdos230Plby.circleMaximum iSup
  congr 1
  ext x
  simp only [Set.mem_range, Erdos230Plby.circleValues, Set.mem_ofPred_eq,
    Erdos230Plby.eval_phasePoly, Erdos230Plby.phaseValue]
  constructor
  · rintro ⟨⟨z, hz⟩, rfl⟩
    exact ⟨z, by simpa using hz, rfl⟩
  · rintro ⟨z, hz, rfl⟩
    exact ⟨⟨z, by simpa using hz⟩, rfl⟩

theorem erdos_230_bridge : type_of% Erdos230.erdos_230 := by
  show False ↔ _
  simp only [false_iff]
  rintro ⟨c, hc, h⟩
  apply Erdos230Plby.not_erdos_230
  refine ⟨c, hc, fun n hn a ha => ?_⟩
  rw [← circleMax_eq]
  exact h n hn a ha

end Bridge230
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«230»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/230.lean [hunk 1]
```diff
@@ -0,0 +1,91 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/230.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
